US09388140B2
Preparation of biphenyl-3,4,5-triamine
To a solution of 80 mg (309 μmol) 3,5-dinitrobiphenyl-4-amine in a mixture of 34 mL ethanol and 10 mL THF were added 6.6 mg palladium on charcoal (10%) and the mixture was stirred under an atmosphere of hydrogen for 26 hours at 23° C. After filtration and removal of the solvent the residue was purified by chromatography to yield 50 mg (81%) of the title compound.

reactant | 3,5-dinitrobiphenyl-4-amine | 309 μmol, 80 mg | [N+](=O)([O-])C=1C=C(C=C(C1N)[N+](=O)[O-])C1=CC=CC=C1 | C12H9N3O4
solvent | ethanol | 34 mL | C(C)O | C2H6O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | palladium on charcoal | 6.6 mg | [Pd] | Pd
product | biphenyl-3,4,5-triamine | 50 mg, 81% | C1(=CC(=C(C(=C1)N)N)N)C1=CC=CC=C1 | C12H13N3
